US06194425B1
Freshly distilled trimethyl orthovalerate (41 mL, 0.24 mole) was added to a mixture of 1,1-dimethylethyl N-{4-[(3-amino[1,5]naphthyridin-4-yl)amino]butyl}carbamate (39 g, 0.12 mole) in warm xylene (500 mL). The reaction mixture was heated at reflux overnight. Thin layer chromatography showed that at least half of the starting material was still present. p-Toluenesulfonic anhydride monohydrate (6 g) was added. After a short time thin layer chromatography showed that the reaction was complete. The reaction mixture was allowed to cool to ambient temperature and then it was diluted with ethyl acetate and washed with aqueous sodium bicarbonate. The organic layer was concentrated under vacuum to provide an oily residue. The residue was triturated with hexane to provide a dark pink solid. This solid was recrystallized from acetonitrile to provide 1,1-dimethylethyl N-[4-(2-butyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)butyl]carbamate as a pale peach solid, m.p. 96.0-98.0° C. Analysis: Calculated for C22H31N5O2: % C, 66.47; % H, 7.86; % N, 17.62; Found: % C, 66.29; % H, 7.78; % N, 17.76.

reactant | trimethyl orthovalerate | 0.24 mole, 41 mL | C(CCCC)(OC)(OC)OC | C8H18O3
reactant | 1,1-dimethylethyl N-{4-[(3-amino[1,5]naphthyridin-4-yl)amino]butyl}carbamate | 0.12 mole, 39 g | NC=1C=NC2=CC=CN=C2C1NCCCCNC(OC(C)(C)C)=O | C17H25N5O2
reactant | p-Toluenesulfonic anhydride monohydrate | 6 g | O.C1(=CC=C(C=C1)S(=O)(=O)OS(=O)(=O)C1=CC=C(C=C1)C)C
solvent | xylene | 500 mL | C=1(C(=CC=CC1)C)C | C8H10
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1,1-dimethylethyl N-[4-(2-butyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)butyl]carbamate | C(CCC)C=1N(C2=C(C=NC=3C=CC=NC23)N1)CCCCNC(OC(C)(C)C)=O | C22H31N5O2
